US09428528B2
Step 8 Preparation of (1R,2S)-3-fluoro-1-hydroxy-1-(4-(3-(methylsulfonamidomethyl)isoxazol-5-yl)phenyl)propan-2-aminium chloride
To (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-(methylsulfonamido-methyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate (300 mg, 0.62 mmol) is added 4N HCl in dioxane (4 ml) at room temperature. The solution is then cooled to 0° C. and water (0.5 ml) is added. The ice bath is removed after ten minutes and the reaction is stirred at room temperature for one hour. The volatiles were then removed by rotary evaporation. Several evaporation cycles were performed using acetonitrile to ensure complete removal of water and excess HCl gave the title compound (234 mg): m/z (CI) 344 ([M+H]+.

reactant | (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-(methylsulfonamido-methyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate | 0.62 mmol, 300 mg | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C1=CC(=NO1)CNS(=O)(=O)C)(C)C)C(=O)OC(C)(C)C | C22H30FN3O6S
reactant | HCl | 4N | Cl | ClH
reactant | water | 0.5 ml | O | H2O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (1R,2S)-3-fluoro-1-hydroxy-1-(4-(3-(methylsulfonamidomethyl)isoxazol-5-yl)phenyl)propan-2-aminium chloride | 234 mg | [Cl-].FC[C@H]([C@@H](C1=CC=C(C=C1)C1=CC(=NO1)CNS(=O)(=O)C)O)[NH3+] | InChI=1S/C14H18FN3O4S.ClH/c1-23(20,21)17-8-11-6-13(22-18-11)9-2-4-10(5-3-9)14(19)12(16)7-15;/h2-6,12,14,17,19H,7-8,16H2,1H3;1H/t12-,14-;/m1./s1
